Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
syncopal episode with LOC, 2nd degree AV Block
chronic atrial fibrillation with slow ventricular rate
 
Major Surgical or Invasive Procedure:
insertion of single chamber pacemaker

 
History of Present Illness:
This is a ___ old male with a PMH significant for afib on 
warfarin, HTN, hyperlipidemia and insulin dependent DM who 
presented to the ED ___ after a fall with LOC. He awoke and 
went to the bathroom, on his way back to the bed he
blacked out and awoke on the floor. His wife heard the fall and 
found him awake and alert on the floor. He does not remember 
falling. He denies any lightheadedness, dizziness, 
nausea,flushing, palpitations, or sudden weakness prior to the 
fall. His wife did not note any jerking of his extremities and 
there was no bowel or bladder incontinence, and he was not 
confused
immediately afterwards. He has never had any past episodes of 
loss of consciousness. He normally walks for exercise and does 
not note any chest pain, SOB, or lightheadedness with walking 1 
mile. He reports remote transient episodes of lightheadedness 
but no syncope and was thereafter diagnosed with atrial 
fibrillation and started on Coumadin after that.

 
Past Medical History:
1. Diabetes: ___, his hemoglobin A1c was 7.8. Follows with 
___.  
2. Hypercholesterolemia: ___ total cholesterol of 173, HDL 
46, LDL 114, triglycerides 63.  
3. Hypertension:  
4. Atrial fibrillation: dx ___. He underwent Holter monitor and 
a stress test. On coumadin.  
5. Erectile dysfunction: takes Viagra prn - has not taken this 
in over one month  
6. Cervical spondylosis  
 
Social History:
___
Family History:
Father with alcoholism and DM. Mother is healthy at  
age ___. Grandfather with diabetes in his ___.  
 
Physical Exam:
On Admission ___:
*Pertinent exam findings:
VS: 97.6  158/90  59  18  98% RA
Gen: A&OX3, NAD
Neuro: Grossly intact. Swelling and erythema around L eye. 
Neck/JVD: JVP normal
CV: RR, nl S1, S2. No murmurs. 
Chest: CTAB
ABD: soft NT, ND
Extr: No edema. WWP

On Discharge:
VS T 98.3 HR 56 RR 20 BP 116/65 98% RA
Gen: A&Ox3, NAD
Neuro: Grossly intact, no focal deficits, thoughts linear. 
Improved edema and erythema about the left orbit. Steri-strips 
intact. Moves all extremities w/o difficulty. L arm in sling.
CV: RRR, S1, S2, no m/r/g
Chest: CTAB
ABD: soft, NT, obese +BS
Extr: Mild effusion noted about left knee, small 1 cm abrasion, 
cutaneous skin loss, no erythema or excess warmth, no drainage. 
+DP b/l

 
Pertinent Results:
___ 05:35AM BLOOD WBC-6.6 RBC-5.32 Hgb-11.7* Hct-38.1* 
MCV-72* MCH-22.0* MCHC-30.7* RDW-16.5* RDWSD-41.8 Plt ___
___ 12:00PM BLOOD WBC-7.8 RBC-5.67 Hgb-12.5* Hct-41.1 
MCV-73* MCH-22.0* MCHC-30.4* RDW-16.8* RDWSD-42.5 Plt ___
___ 12:00PM BLOOD Neuts-75.7* Lymphs-15.3* Monos-7.3 
Eos-0.8* Baso-0.5 Im ___ AbsNeut-5.91 AbsLymp-1.19* 
AbsMono-0.57 AbsEos-0.06 AbsBaso-0.04
___ 05:35AM BLOOD Plt ___
___ 05:35AM BLOOD ___
___ 12:00PM BLOOD ___ PTT-40.6* ___
___ 05:35AM BLOOD Glucose-219* UreaN-19 Creat-0.9 Na-138 
K-4.3 Cl-104 HCO3-26 AnGap-12
___ 12:00PM BLOOD Glucose-255* UreaN-14 Creat-0.9 Na-134 
K-4.5 Cl-98 HCO3-25 AnGap-16
___ 05:35AM BLOOD ALT-12 AST-17 LD(LDH)-170 AlkPhos-76 
TotBili-0.5
___ 05:35AM BLOOD Albumin-3.6 Calcium-8.4 Phos-3.6 Mg-2.0

DISCHARGE LABS:

ECHO ___:
The left atrial volume index is moderately increased. No left 
atrial mass/thrombus seen (best excluded by transesophageal 
echocardiography). Mild symmetric left ventricular hypertrophy 
with normal cavity size, and regional/global systolic function 
(biplane LVEF = 66 %). There is no left ventricular outflow 
obstruction at rest or with Valsalva. There is no ventricular 
septal defect. Right ventricular chamber size and free wall 
motion are normal. Right ventricular chamber size is normal with 
normal free wall contractility. The ascending aorta and aortic 
arch are mildly dilated. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve leaflets are 
structurally normal. No mitral regurgitation is seen. Trivial 
mitral regurgitation is seen. The pulmonary artery systolic 
pressure could not be determined. There is an anterior space 
which most likely represents a prominent fat pad. 

 IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved regional and global biventricular systolic function. 
Mildly dilated ascending aorta. Left atrial dilation. No 
structural cardiac cause of syncope identified. 
 These findings are c/w hypertensive heart.

 CLINICAL IMPLICATIONS: 
 The patient has a mildly dilated ascending aorta. Based on ___ 
ACCF/AHA Thoracic Aortic Guidelines, a follow-up echocardiogram 
is suggested in ___ years

CXR PA & LATERAL ___:
COMPARISON:  Chest radiograph ___, CT trachea ___ 
  
FINDINGS:  
  
Low lung volumes are present.  Heart size appears mildly 
enlarged.  
Mediastinal and hilar contours are grossly unchanged.  Crowding 
of 
bronchovascular structures is present without overt pulmonary 
edema.  Patchy opacities in the lung bases may reflect areas of 
atelectasis, though infection is difficult to exclude in the 
correct clinical setting.  No pleural effusion or pneumothorax 
is present.  Mild multilevel degenerative changes are noted in 
the thoracic spine. 
  
IMPRESSION:  
  
Low lung volumes with patchy bibasilar airspace opacities most 
likely 
reflective of atelectasis.  Infection cannot be excluded in the 
correct 
clinical setting. 

KNEE XRAY (3 views) ___:
COMPARISON:  ___ left knee radiographs 
  
FINDINGS:  
  
No acute fracture or dislocation is identified.  Mild 
tricompartmental 
degenerative changes with osteophytic spurring are demonstrated, 
most 
pronounced in the patellofemoral and lateral compartments of the 
knee.  A 
moderate size joint effusion is present.  Vascular 
calcifications are seen 
diffusely.  No concerning lytic or sclerotic osseous 
abnormalities is 
identified.  There are no radiopaque foreign bodies. 
  
IMPRESSION:  
  
No acute fracture or dislocation.  Moderate size joint effusion. 

  

CT HEAD w/o CONTRAST ___:
FINDINGS:  
  
There is no evidence of acute infarction, hemorrhage, edema, or 
mass.  There is mild prominence of the ventricles and sulci 
suggestive of involutional changes. Scattered subcortical and 
periventricular white matter hypodensities are nonspecific, 
however likely represent the sequela of chronic small vessel 
ischemic disease. 
  
There is soft tissue swelling overlying the left orbit, but the 
globe appears intact.  No retrobulbar hematoma is seen.  There 
is no evidence of fracture. There is partial opacification of 
the right mastoid air cells suggestive of mild ongoing 
inflammation.  The visualized portion of the paranasal 
sinuses,left mastoid air cells, and middle ear cavities are 
clear. 
  
IMPRESSION:  
  
Left periorbital soft tissue swelling without fracture.  No 
acute intracranial process. 

 
Brief Hospital Course:
The ___ hospital course was remarkable in relation to his 
slow atrial fibrillation and second degree AV Block. He had 
multiple pauses on telemetry 20 seconds or more and was 
recommended for pacemaker insertion. He initially declined  the 
procedure but after further consideration and discussion with 
Dr. ___ the risks therein, proceeded with implantation. 
 He remained therapeutic with his Coumadin and will continue to 
be followed with his PCP at discharge. He was placed on IV 
antibiotics and will transition to PO antibiotics at discharge. 
He had multiple studies and exams performed while here and his 
CT was negative for acute changes. His left eye remained stable 
and swelling and ecchymosis was gradually and noticeably 
improving.  He continued to complain of left knee pain. He 
reported hitting the tibial tuberosity which remained tender to 
palpation but without erythema or excess warmth.  Knee xrays 
showed only chronic changes in relation to osteoarthritis 
(tri-compartmental and prominent about the patello-femoral 
compartment).  He has baseline numbness of his bilateral hands 
related to his canal narrowing as seen on MRI in ___.  
Surgery was discussed but he has foregone this for now, 
preferring to wait and observe for worsening symptoms. He was 
counseled to reconsider this decision and to avoid delay of any 
worsening symptoms, increasing numbness, strength and 
coordination. Physical Therapy was consulted and felt continued 
home therapy was appropriate to help with falls prevention, gait 
training, conditioning and safety, especially in light of his 
weight bearing restrictions on the left upper extremity 
following his pacemaker. 

His device was interrogated on the day of discharge and a CXR 
was completed confirming proper placement of the device and 
leads. He was seen by Physical Therapy given his recent syncopal 
episode and underlying musculoskeletal symptoms and deemed 
appropriate for discharge on ___.  He will follow up with 
Device Clinic in one week, has been recommended to have his INR 
checked on ___ which is followed through the ___ 
___ clinic, and continue follow up with his PCP, ___. 
___.  Additionally, given his chronic atrial fibrillation he has 
been recommended to have follow up with ___ Cardiology as 
well, for a first available appointment. This has been requested 
through Care Connections to the Cardiology team and he will be 
contacted with an appointment at home when known.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Quinapril 40 mg PO DAILY 
2. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
3. MetFORMIN (Glucophage) 1000 mg PO DAILY 
4. Warfarin 2 mg PO 1X/WEEK (___) 
5. Simvastatin 40 mg PO QPM 
6. liraglutide 1.2 mg subcutaneous DAILY 
7. 70/30 24 Units Breakfast
70/30 24 Units Bedtime
8. Tamsulosin 0.8 mg PO QHS 
9. Alphagan P (brimonidine) 0.1 % ophthalmic 1 drop both eyes 
twice daily  
10. Warfarin 5 mg PO 6X/WEEK (___) 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q8H Duration: 3 Days 
Take all of this medication as prescribed  
2.  70/30 24 Units Breakfast
70/30 24 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
3.  Simvastatin 80 mg PO QPM  
4.  Alphagan P (brimonidine) 0.1 % ophthalmic 1 drop both eyes 
twice daily   
5.  liraglutide 1.2 mg subcutaneous DAILY  
6.  MetFORMIN (Glucophage) 1000 mg PO DAILY 
Resume ___  
7.  Quinapril 40 mg PO DAILY  
8.  Tamsulosin 0.8 mg PO QHS  
9.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  
10.  Warfarin 5 mg PO 6X/WEEK (___)  
11.  Warfarin 2 mg PO 1X/WEEK (___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
syncope with loss of consciousness
atrial fibrillation with slow ventricular response

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital following a visit to the ED 
after a syncopal episode with a loss of consciousness. You were 
monitored on telemetry and were found to have a slow atrial 
fibrillation rate response with multiple pauses and referred for 
pacemaker implant as this could result in complete heart block. 
A single chamber pacemaker was placed on ___.  You were 
continued on all of your current medications, including your 
Coumadin. You will need to follow up in Device Clinic in one 
week (appt. information noted below). You were placed on IV 
antibiotics while here and will continue oral antibiotics for 
three days to prevent surgical site infection. It is important 
to take all of this medication as prescribed. Your Coumadin 
should continue to be followed as per your chronic schedule. You 
will need to follow up with your PCP as well within 30 days 
(appointment information included below). Your next INR should 
be drawn as per the ___ clinic, we are 
recommending a draw on ___.  Your INR at discharge on 
___ was 1.9 and you will take your chronic dosing which is 5 mg 
for 6 days a week with 2 mg on ___.  

You had hit your head during your syncopal episode as well as 
your eye and sustained an injury to your left orbit but no 
fracture or hematoma.  You had resultant bruising from this 
injury but remained otherwise stable.  A CT of your head was 
performed and there was no internal hemorrhage. (results of CT 
are below). Additionally you complained of left knee pain and 
radiographs were done which showed no acute fracture. You do 
have chronic osteoarthritis most pronounced about the knee cap 
(patello-femoral area) which is chronic. You were seen by 
Physical Therapy for evaluation prior to discharge to home. You 
should follow up with your PCP and obtain referral to an 
orthopedic physician for further workup and care for your 
osteoarthritis of the knee. We recommend the use of ice, 20 
minutes at a time per hour up to 5 times daily, along with 
Tylenol for pain.

You were seen by Physical Therapy and evaluated for safe 
discharge to home. Based upon their recommendations, they are 
recommending home physical therapy to work on gait training, use 
of assistive device (cane) and strengthening and falls 
prevention. Services have been requested on your behalf prior to 
your discharge from the hospital from ___ Services.

  You also reported continuing numbness of bilateral hands and 
reported you had prior to admission and an MRI was performed in 
___ which was reviewed showing cervical spondylosis and 
canal narrowing and have not pursued surgical consultation. It 
is recommended that you continue follow up with your PCP and 
obtain surgical referral if your decision changes in that regard 
or if your symptoms worsen. This is critical as your MRI does 
canal narrowing.
 
Followup Instructions:
___